US06019959
a) N-Ethyl-N-(perfluorooctylsulfonyl)-amino-acetic acid-t-butyl ester
20 g (37.94 mmol) of N-ethylperfluorooctylsulfonamide and 15.73 g (113.8 mmol) of potassium carbonate are suspended in 200 ml of acetone, and 14.80 g (75.87 mmol) of bromoacetic acid-tert-butyl ester is added in drops at 60° C. It is stirred for 3 hours at 60° C. Salts are filtered out, and the filtrate is evaporated to the dry state in a vacuum. The residue is chromatographed on silica gel (mobile solvent: hexane/dichloromethane/acetone=10:10:1). After the product-containing fractions are concentrated by evaporation, the residue is recrystallized from methanol/ether.

reactant | N-ethylperfluorooctylsulfonamide | 37.94 mmol, 20 g | C(C)NS(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C10H6F17NO2S
reactant | potassium carbonate | 113.8 mmol, 15.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid-tert-butyl ester | 75.87 mmol, 14.80 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-Ethyl-N-(perfluorooctylsulfonyl)-amino-acetic acid-t-butyl ester | C(C)(C)(C)OC(CN(S(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)CC)=O | C16H16F17NO4S
